US06479490B2
To a solution of methyl 3-(morpholin-4-yl)phenylacetate (0.50 g, 2.1 mmol) in methanol (5 mL) and H2O (1 mL) was added lithium hydroxide monohydrate (0.18 g, 2 eq.). After the reaction mixture was stirred at room temperature overnight, it was concentrated to dryness. Acetic acid was then added to the residue and the resulting mixture was partitioned between EtOAc and H2O. The organic layer was washed with NaCl (sat.), dried over Na2SO4, and evaporation under vacuo to give 3-(morpholin-4-yl)phenylacetic acid (0.42 g).

reactant | methyl 3-(morpholin-4-yl)phenylacetate | 2.1 mmol, 0.50 g | N1(CCOCC1)C=1C=C(C=CC1)CC(=O)OC | C13H17NO3
reactant | lithium hydroxide monohydrate | 0.18 g, 2 eq. | O.[OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | 3-(morpholin-4-yl)phenylacetic acid | 0.42 g | N1(CCOCC1)C=1C=C(C=CC1)CC(=O)O | C12H15NO3
